US07816020B2
After this, 1.87 g (0.005 mole) of the 1-(p-bromophenyl)-3,5-diphenylpyrazole obtained above and 10.0 ml of THF were placed in a 200-ml four-necked flask. The mixture was stirred at room temperature and 6.0 ml (0.010 mole) of a 1.7 M hexane solution of tert-butyllithium was added in drops at room temperature. After the addition, the stirring was continued at room temperature for one hour. A solution of 0.70 g (0.003 mole) of diphenyldichlorosilane in 10.0 ml of THF was further added from a dropping funnel at room temperature. After the addition, the mixture was heated under reflux with stirring for eight hours. Upon completion of the reaction, the reaction mixture was cooled to room temperature and water and toluene were added. The reaction mixture was transferred to a separatory funnel and an organic layer was separated. The organic layer was distilled under reduced pressure to remove the solvent and the remainder was submitted to column purification to give 0.40 g of bis[4-(3,5-diphenylpyrazol-1-yl)phenyl]diphenylsilane (hereinafter referred to as BPPS) as a light yellow powder. The product showed a purity of 100% (area ratio, HPLC), a mass of 773, and a melting point of 235.7° C. and corresponds to the compound listed as No. 153.

reactant | 1-(p-bromophenyl)-3,5-diphenylpyrazole | 0.005 mole, 1.87 g | BrC1=CC=C(C=C1)N1N=C(C=C1C1=CC=CC=C1)C1=CC=CC=C1 | C21H15BrN2
reactant | hexane | 1.7 M | CCCCCC | C6H14
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | diphenyldichlorosilane | 0.003 mole, 0.70 g | C1(=CC=CC=C1)[Si](Cl)(Cl)C1=CC=CC=C1 | C12H10Cl2Si
solvent | THF | 10.0 ml | C1CCOC1 | C4H8O
solvent | THF | 10.0 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | bis[4-(3,5-diphenylpyrazol-1-yl)phenyl]diphenylsilane | 0.40 g | C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=CC=C1)C1=CC=CC=C1 | C54H40N4Si
